US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(3,5-di [t-butyl]-4-hydroxy-phenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo [f]-quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (200 mg, 0.65 mmol), tetrakis (triphenylphosphine) palladium (0) {23 mg, 0.02 mmol), 3,5-di(t-butyl)-4-hydroxyphenylboronic acid (195 mg, 0.78 mmol), 0.65 mL of 2M sodium carbonate solution and 2 mL of THF, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 16 h. The mixture was cooled, diluted with chloroform (50 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent), to give 170 mg (58%) of the title compound as a white solid. mp>265°. FDMS: m/e=433 α[D]589 =+46.45 (c=1.00, chloroform).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.65 mmol, 200 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | 3,5-di(t-butyl)-4-hydroxyphenylboronic acid | 0.78 mmol, 195 mg | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)B(O)O | C14H23BO3
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis (triphenylphosphine) palladium (0) | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (+)-(4aR)-(10bR)-4-methyl-8-(3,5-di [t-butyl]-4-hydroxy-phenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo [f]-quinolin-3-one | 170 mg, 58% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC(=C(C(=C3)C(C)(C)C)O)C(C)(C)C)C)=O | C29H39NO2
